US20010020089A1
(2S,3S,4R,5R)-5-{6-[(2-Benzyl-3-phenylpropyl)amino]-2-iodo-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
A solution of (2R,3R,4S,5S)-4-(benzoyloxy)-2-{6-[(2-benzyl-3-phenylpropyl)amino)-2-iodo-9H-purin-9-yl}-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (Preparation 20) (0.26 g, 0.31 mmol) and sodium carbonate (33 mg, 0.3 mmol) in methanol (5 ml) was stirred at room temperature for 14 hours. Solvent was removed under reduced pressure and the residue dissolved in dichloromethane:methanol (99:1 by volume; 5 ml) and filtered. Solvent was again evaporated under reduced pressure and the residue triturated with diethyl ether to afford the title compound as a beige powder (0.17 g, 86%).

reactant | (2R,3R,4S,5S)-4-(benzoyloxy)-2-{6-[(2-benzyl-3-phenylpropyl)amino)-2-iodo-9H-purin-9-yl}-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 0.31 mmol, 0.26 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC(CC1=CC=CC=C1)CC1=CC=CC=C1)I | C42H39IN6O6
reactant | sodium carbonate | 0.3 mmol, 33 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (2S,3S,4R,5R)-5-{6-[(2-Benzyl-3-phenylpropyl)amino]-2-iodo-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 0.17 g, 86% | C(C1=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)I)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)CC1=CC=CC=C1 | C28H31IN6O4
